US08012956B2
4-Amino-2-methyl-3-nitrobenzoic acid (1.87 g, 9.54 mmol) was solubilized in methanol (100 mL) and tetrahydrofuran (100 mL) and was treated with (trimethylsilyl)diazomethane solution (5.3 mL, 10.5 mmol, 2.0M in diethyl ether). After the reaction was shown to be complete, the mixture was concentrated and the residue was purified via column chromatography (silica gel, 5:1 hexanes/ethyl acetate) to give 1.10 g (55% yield) of methyl 4-amino-2-methyl-3-nitrobenzoate. 1H NMR (400 MHz, d6-DMSO): 7.73 (d, 1H), 6.75 (d, 1H), 6.51 (broad s, 2H), 3.75 (s, 3H), 2.37 (s, 3H). MS (EI) for C9H10N2O4: 210 (MH+).

reactant | 4-Amino-2-methyl-3-nitrobenzoic acid | 9.54 mmol, 1.87 g | NC1=C(C(=C(C(=O)O)C=C1)C)[N+](=O)[O-] | C8H8N2O4
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | (trimethylsilyl)diazomethane | 10.5 mmol, 2.0M, 5.3 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 100 mL | CO | CH4O
product | methyl 4-amino-2-methyl-3-nitrobenzoate | 1.10 g, 55% yield | NC1=C(C(=C(C(=O)OC)C=C1)C)[N+](=O)[O-] | C9H10N2O4
